US07981903B2
6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide (133 mg, 0.193 mmol) was dissolved in 1,4-dioxane (10 mL) and transferred to a 20 ml microwave vessel. Water (3 mL) and a solution of 6M NaOH (3 ml) and was added and reaction heated in microwave at 120° C. for 10 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid that was purified via chromatography on SiO2 to afford 6-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluorobenzamide (79 mg, 0.147 mmol) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.19-2.31 (m, 6 H), 3.04-3.25 (m, 4 H), 3.70-3.87 (m, 3 H), 4.18 (m, 2 H), 6.24 (d, J=0.64 Hz, 1 H), 6.95 (d, J=2.29 Hz, 2 H), 7.23-7.44 (m, 1 H), 7.54 (br. s., 1 H), 8.06-8.23 (m, 2 H), 8.24-8.38 (m, 1 H), 8.64 (br. s., 1H), 9.93 (br. s., 1 H), 11.27 (br. s., 1 H). (ESIMS (M+H)+=537)

reactant | 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide | 0.193 mmol, 133 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)N)F)F)OC)C | C33H32F2N8O5S
reactant | Water | 3 mL | O | H2O
reactant | NaOH | 6M, 3 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluorobenzamide | 0.147 mmol, 79 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=CC=C(C(=C2C(=O)N)F)F)OC)C | C26H26F2N8O3
